US20010027211A1
Aniline 9.3 (44.6 g, 268 mmol) and 2,6-lutidine (32.8 mL, 282 mmol) were dissolved in 800 mL of acetone (the aniline only partly dissolved). An addition funnel was charged with C6F5SO2Cl (41.8 mL, 282 mmol) and the sulfonyl chloride was added over 15 minutes. During the addition, the starting material dissolved and a new precipitate (2,6-lutidine hydrochloride) formed. After 30 minutes, the 2,6-lutidine hydrochloride was removed by filtration and the filtrate concentrated under reduced pressure. The brown oily solid so produced was triturated with CH2Cl2 and the solid collected. A second batch of product was obtained by repeating the concentration, trituration, and filtration. After drying under high vacuum, 95.5 g (90%) of sulfonamide 9.4 was obtained as a pale yellow solid.

reactant | 2,6-lutidine | 282 mmol, 32.8 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | C6F5SO2Cl | 282 mmol, 41.8 mL | C1(=C(F)C(F)=C(F)C(F)=C1F)S(=O)(=O)Cl | C6ClF5O2S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetone | 800 mL | CC(=O)C | C3H6O
solvent | aniline | NC1=CC=CC=C1 | C6H7N
solvent | aniline | 268 mmol, 44.6 g | NC1=CC=CC=C1 | C6H7N
product | 2,6-lutidine hydrochloride | Cl.N1=C(C=CC=C1C)C | InChI=1S/C7H9N.ClH/c1-6-4-3-5-7(2)8-6;/h3-5H,1-2H3;1H
